US05792767
Methyl 2-Amino-4-chloro-5-methoxybenzoate
A solution of 2-amino-4chloro-5-methoxybenzoic acid (3.0 g, 15.0 mmol; prepared according to the procedure of Denny, et al., J. Med. Chem. 34:217-222 (1991)) in 70 ml MeOH was treated with excess trimethylsilyl diazomethane. The solution was concentrated and the residue flash chromatographed on silica (9:1 hexane/EtOAc to give the title compound (46%): mp 63°-64° C.; 1H NMR (300 MHz, CDCl3) δ 6 3.83 (s, 3H), 3.90 (s, 3H), 5.48 (bs, 2H), 6.75 (s, 1H), 7.39 (s, 1H); MS (DCI/NH3) m/z 216 (M+H)+.

reactant | 2-amino-4chloro-5-methoxybenzoic acid | NC1=C(C(=O)O)C=C(C(=C1)Cl)OC | C8H8ClNO3
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 70 ml | CO | CH4O
product | Methyl 2-Amino-4-chloro-5-methoxybenzoate | 46% | NC1=C(C(=O)OC)C=C(C(=C1)Cl)OC | C9H10ClNO3
